*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.002/0.003


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
*-- p/g port #: 12/12
+nd_1_0_3000_8666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_666 0 28.146
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 28.146
cd_0_0_0_0 nd_1_0_1000_666_ci 0 7.1058e-11
rdload_0_0_0_1 nd_1_0_3000_666 0 25.8637
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 25.8637
cd_0_0_0_1 nd_1_0_3000_666_ci 0 7.73284e-11
rdload_0_0_0_2 nd_1_0_5000_666 0 368.206
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 368.206
cd_0_0_0_2 nd_1_0_5000_666_ci 0 5.43174e-12
rdload_0_0_0_3 nd_1_0_7000_666 0 183.855
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 183.855
cd_0_0_0_3 nd_1_0_7000_666_ci 0 1.08781e-11
rdload_0_0_0_4 nd_1_0_9000_666 0 119.825
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 119.825
cd_0_0_0_4 nd_1_0_9000_666_ci 0 1.6691e-11
rdload_0_0_0_5 nd_1_0_1000_2000 0 32.1654
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 32.1654
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 6.21786e-11
rdload_0_0_0_6 nd_1_0_3000_2000 0 50.5145
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 50.5145
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 3.95926e-11
rdload_0_0_0_7 nd_1_0_5000_2000 0 310.017
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 310.017
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 6.45127e-12
rdload_0_0_0_8 nd_1_0_7000_2000 0 157.321
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 157.321
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 1.27129e-11
rdload_0_0_0_9 nd_1_0_9000_2000 0 34.9695
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 34.9695
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 5.71927e-11
rdload_0_0_0_10 nd_1_0_1000_3333 0 82.9754
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 82.9754
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 2.41035e-11
rdload_0_0_0_11 nd_1_0_3000_3333 0 48.5637
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 48.5637
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 4.11831e-11
rdload_0_0_0_12 nd_1_0_5000_3333 0 253.806
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 253.806
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 7.88002e-12
rdload_0_0_0_13 nd_1_0_7000_3333 0 37.8528
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 37.8528
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 5.28362e-11
rdload_0_0_0_14 nd_1_0_9000_3333 0 34.1572
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 34.1572
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 5.85527e-11
rdload_0_0_0_15 nd_1_0_1000_4666 0 78.0257
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 78.0257
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 2.56326e-11
rdload_0_0_0_16 nd_1_0_3000_4666 0 47.1111
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 47.1111
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 4.24529e-11
rdload_0_0_0_17 nd_1_0_5000_4666 0 220.396
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 220.396
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 9.07457e-12
rdload_0_0_0_18 nd_1_0_7000_4666 0 127.83
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 127.83
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 1.56458e-11
rdload_0_0_0_19 nd_1_0_9000_4666 0 33.1454
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 33.1454
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 6.03402e-11
rdload_0_0_0_20 nd_1_0_1000_6000 0 74.9129
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 74.9129
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 2.66977e-11
rdload_0_0_0_21 nd_1_0_3000_6000 0 45.4439
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 45.4439
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 4.40103e-11
rdload_0_0_0_22 nd_1_0_5000_6000 0 192.602
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 192.602
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 1.03841e-11
rdload_0_0_0_23 nd_1_0_7000_6000 0 36.1397
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 36.1397
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 5.53409e-11
rdload_0_0_0_24 nd_1_0_9000_6000 0 87.9087
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 87.9087
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 2.27509e-11
rdload_0_0_0_25 nd_1_0_1000_7333 0 70.6162
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 70.6162
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 2.83221e-11
rdload_0_0_0_26 nd_1_0_3000_7333 0 320.022
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 320.022
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 6.24957e-12
rdload_0_0_0_27 nd_1_0_5000_7333 0 39.0914
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 39.0914
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 5.11622e-11
rdload_0_0_0_28 nd_1_0_7000_7333 0 112.601
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 112.601
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 1.77618e-11
rdload_0_0_0_29 nd_1_0_9000_7333 0 31.8139
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 31.8139
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 6.28657e-11
rdload_0_0_0_30 nd_1_0_1000_8666 0 68.4329
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 68.4329
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 2.92257e-11
rdload_0_0_0_31 nd_1_0_3000_8666 0 43.0791
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 43.0791
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 4.64262e-11
rdload_0_0_0_32 nd_1_0_5000_8666 0 38.0907
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 38.0907
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 5.25062e-11
rdload_0_0_0_33 nd_1_0_7000_8666 0 103.99
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 103.99
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 1.92326e-11
rdload_0_0_0_34 nd_1_0_9000_8666 0 31.0486
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 31.0486
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 6.44151e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val120'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val121'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val122'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val123'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val124'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val125'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001

.ends chiplet1
